US08685986B2
Isopropyl(6-{[4-(pyrazol-1-yl)benzyl](pyridin-3-ylsulfonyl)aminomethyl}pyridin-2-ylamino)acetate (Exemplified Compound No. 1473)
Reaction was carried out in the same manner as in Example 29 except for using (6-{[4-(pyrazol-1-yl)benzyl](pyridin-3-ylsulfonyl)aminomethyl}pyridin-2-ylamino)acetic acid hydrochloride (25.8 mg, 0.0439 mmol) obtained in Example 7-(b) in place of (6-{(pyridin-2-ylsulfonyl)[4-(thiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic acid, and using isopropanol (0.20 ml) in place of 1-hexanol. After completion of the reaction, the reaction solution was concentrated under reduced pressure, and a saturated aqueous sodium hydrogencarbonate solution was added to the residue, followed by extraction with ethyl acetate. The separated organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to afford the title compound (20.6 mg) as a colorless oil. (Yield: 90%)

reactant | (6-{[4-(pyrazol-1-yl)benzyl](pyridin-3-ylsulfonyl)aminomethyl}pyridin-2-ylamino)acetic acid hydrochloride | 0.0439 mmol, 25.8 mg | Cl.N1(N=CC=C1)C1=CC=C(CC(C2=CC=CC(=N2)NCC(=O)O)NS(=O)(=O)C=2C=NC=CC2)C=C1
reactant | (6-{(pyridin-2-ylsulfonyl)[4-(thiazol-2-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic acid | N1=C(C=CC=C1)S(=O)(=O)C(C1=CC=CC(=N1)NCC(=O)O)NCC1=CC=C(C=C1)C=1SC=CN1 | C23H21N5O4S2
solvent | isopropanol | 0.20 ml | C(C)(C)O | C3H8O
product | Isopropyl(6-{[4-(pyrazol-1-yl)benzyl](pyridin-3-ylsulfonyl)aminomethyl}pyridin-2-ylamino)acetate | 20.6 mg, Yield: 90% | C(C)(C)OC(CNC1=NC(=CC=C1)C(NS(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C26H28N6O4S
